US05171764
A 2-liter flask fitted with a stirrer, an air introduction tube, a condensing pipe and a thermostat was charged with 222 parts of isophorone diisocyanate and 50 parts of methyl isobutyl ketone. While blowing a dry air into a liquid phase, they were stirred and heated to 70° C. To the mixture was added 0.3 part of dibutyltin dilaurate, followed by adding dropwise 116 parts of 2-hydroxyethyl acrylate for 1 hour. Even after the dropwise addition, the temeprature was kept at 70° C. for 1 hour. Subsequently, 115 parts of methyl isobutyl ketoxime was added dropwise for 1 hour. Even after the dropwise addition, heating was conducted to keep the temperature at 70° C. The reaction mixture was collected with the lapse of time. Absorption of -NCO was ascertained by IR. A time when absorption of -NCO disappeared was made the termination of the reaction. There was obtained a blocked 90% isophorone diisocyanate/2-hydroxyethyl acrylate/methyl isobutyl ketoxime solution (e-1). The 70 % solids content buble viscosity (solvent composition: 10 % of methyl isobutyl ketone and 20% of n-butyl acrylate) was DE.

reactant | isophorone diisocyanate | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | 2-hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
reactant | methyl isobutyl ketoxime | C(C(C)C)C(=NO)C | C6H13NO
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | isophorone diisocyanate 2-hydroxyethyl acrylate methyl isobutyl ketoxime | 90% | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C.C(C=C)(=O)OCCO.C(C(C)C)C(=NO)C | InChI=1S/C12H18N2O2.C6H13NO.C5H8O3/c1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15;1-5(2)4-6(3)7-8;1-2-5(7)8-4-3-6/h10H,4-7H2,1-3H3;5,8H,4H2,1-3H3;2,6H,1,3-4H2
